US05559111
c) 3-Benzyloxycarbonylamino-2,2-dimethylpropionic acid ethyl ester
31 ml of 90% chloroformic acid benzyl ester are slowly added, at 0°-5° C., to 29.04 g of 3-amino-2,2-dimethylpropionic acid ethyl ester in 500 ml of ethyl acetate and 250 ml of 1M sodium hydrogen carbonate solution. The reaction mixture is stirred for 2 hours at 0°-5° C. and extracted with ethyl acetate. The organic phases are washed with saturated sodium chloride solution and then concentrated. The evaporation residue is purified by FC (1 kg of silica gel; eluant: ethyl acetate/hexane=1:3). The title compound is obtained: Rf (ethyl acetate/hexane=1:3)=0.28.

reactant | chloroformic acid benzyl ester | 31 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | 3-amino-2,2-dimethylpropionic acid ethyl ester | 29.04 g | C(C)OC(C(CN)(C)C)=O | C7H15NO2
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | sodium hydrogen carbonate | 1M, 250 ml | C(O)([O-])=O.[Na+]
product | 3-Benzyloxycarbonylamino-2,2-dimethylpropionic acid ethyl ester | C(C)OC(C(CNC(=O)OCC1=CC=CC=C1)(C)C)=O | C15H21NO4
